US07714132B2
(2-tert.-Butoxycarbonyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-acetic acid
A stirred solution of ethyl (2-tert.-butoxycarbonyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-acetate (15 mg, 0.039 mmol) in THF (0.6 ml) is treated with 0.2 N aqueous NaOH (0.29 ml, 0.058 mmol) at rt for 15 min. The reaction mixture is diluted with water (2 ml) and washed with diethyl ether (2 ml), then neutralized with conc. HCl (58 μl), and extracted with dichloromethane. The solvent is evaporated and the crude product is recrystallized from acetonitrile to afford pure compound as a yellow solid: tR (LC-1) 2.16 min; ESI-MS (positive ion): m/z 353.32 [M+Na]+ (calcd 330.38 for C18H22N2O4).

reactant | ethyl (2-tert.-butoxycarbonyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-acetate | 0.039 mmol, 15 mg | C(C)(C)(C)OC(=O)N1CC2=C(N(C=3C=CC=CC23)CC(=O)OCC)CC1 | C20H26N2O4
reactant | NaOH | 0.058 mmol, 0.2 N, 0.29 ml | [OH-].[Na+]
solvent | THF | 0.6 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | (2-tert.-Butoxycarbonyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-acetic acid | C(C)(C)(C)OC(=O)N1CC2=C(N(C=3C=CC=CC23)CC(=O)O)CC1 | C18H22N2O4
